US09034900B2
Step 1: 7-bromo-5-methylfuro[3,2-c]pyridin-4-one
To a suspension of 7-bromo-5H-furo[3,2-c]pyridin-4-one (250 mg, 1.17 mmol) in DMF (5 mL) cooled to 0° C. was added HNa (56 mg, 1.4 mmol, 60% dispersion in mineral oil) in three portions. After stirring at room temperature for 45 min, MeI (87 μl, 1.4 mmol) was added drop wise over five minutes. The reaction was allowed to warm up to rt stirred for 2 h. It was then cooled to 0° C. followed by addition of sat. aq. NH4Cl (5 mL) drop wise. The resulting mixture was extracted with EtOAc (3×5 mL). The combined organic layers were dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to afford the title compound. LCMS: 227.9 (M+H)+

reactant | 7-bromo-5H-furo[3,2-c]pyridin-4-one | 1.17 mmol, 250 mg | BrC=1C2=C(C(NC1)=O)C=CO2 | C7H4BrNO2
reactant | MeI | 1.4 mmol, 87 μl | CI | CH3I
reactant | NH4Cl | 5 mL | [NH4+].[Cl-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 7-bromo-5-methylfuro[3,2-c]pyridin-4-one | BrC=1C2=C(C(N(C1)C)=O)C=CO2 | C8H6BrNO2
